US05958918
A. 2-Phenylethenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3(S)-yl]amide
The title compound is prepared from 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride as in EXAMPLE 24, Part B using trans-b-styrenesulfonyl chloride in place of 6-methoxynaphthalene-2-sulfonyl chloride. The crude product is triturated from 50% EtOAc/hexanes to give the title compound as a solid.

reactant | 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride | Cl.N[C@@H]1C(N(CC1)CC=1C=C(C#N)C=CC1)=O
reactant | trans-b-styrenesulfonyl chloride | C(=C\C1=CC=CC=C1)/S(=O)(=O)Cl | C8H7ClO2S
product | 2-Phenylethenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3(S)-yl]amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=CC2=CC=CC=C2)=O)C=CC1 | C20H19N3O3S
